US06043366
8-Cyclodecyl-3-cyclopropylmethyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:1)
The title compound, white solid, m. p. 214° C. and MS: m/e=424.3 (M+H+) was prepared in accordance with the general method of example 24 from 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride and bromomethylcyclopropane.

reactant | 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | bromomethylcyclopropane | BrCC1CC1 | C4H7Br
product | 8-Cyclodecyl-3-cyclopropylmethyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(N(CN2C2=CC=CC=C2)CC2CC2)=O)CC1 | InChI=1S/C27H41N3O.ClH/c31-26-27(30(25-13-9-6-10-14-25)22-29(26)21-23-15-16-23)17-19-28(20-18-27)24-11-7-4-2-1-3-5-8-12-24;/h6,9-10,13-14,23-24H,1-5,7-8,11-12,15-22H2;1H
